* Netlist gerada automaticamente a partir do circuit.json
.tran 1

V1 N001 0 12
R3 N002 N003 680k
R4 N003 N004 15
R5 N002 0 22k
I1 0 N003 2
R1 N004 0 10
R2 N001 N002 470k

.end